US05516783
Furan was added dropwise to a stirred solution of n-butyllithium (2.5M in hexanes, 58.8 ml, 147 mmol) in dry THF (200 ml) at -20° C. under argon. The mixture was allowed to warm to room temperature and was then heated at reflux for 4 h. The mixture was cooled to -30° C. and isovaleraldehyde (12.8 g, 147 mmol) was added dropwise. The mixture was allowed to warm to room temperature and was then heated at reflux for 16 h. The reaction mixture was allowed to cool to room temperature, poured onto crushed ice, extracted with ether and the combined organic extracts dried over anhydrous potassium carbonate, filtered and concentrated to give a dark yellow oil. Distillation under reduced pressure gave 1-(2-furyl)-3-methylbutanol (11.0 g, 49%) as a colourless oil.

reactant | Furan | O1C=CC=C1 | C4H4O
reactant | n-butyllithium | 147 mmol, 2.5M, 58.8 ml | C(CCC)[Li]
reactant | isovaleraldehyde | 147 mmol, 12.8 g | C(CC(C)C)=O | C5H10O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(2-furyl)-3-methylbutanol | 11.0 g, 49% | O1C(=CC=C1)C(CC(C)C)O | C9H14O2
